US04963543
To a solution of (2S,4R)-4-hydroxy-2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.23 g) and triphenylphosphine (1.23 g) in tetrahydrofuran (25 ml) was added dropwise a solution of diethyl azodicarboxylate (0.74 ml) in tetrahydrofuran (2 ml) under ice-cooling. After stirring at the same temperature for 30 minutes, to the solution was added thiobenzoic S-acid (0.55 ml) under ice-cooling. The mixture was stirred at the same temperature for 2 hours. The reaction mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in ethyl acetate (100 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride successively, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (19:1, V/V). The fractions containing the resired compound were collected and evaporated in vacuo to give (2S,4S)-4-benzoylthio-2-(1-methyl-1H-tetrazol- 5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.61 g).

reactant | (2S,4R)-4-hydroxy-2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.23 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSC1=NN=NN1C | C15H18N6O5S
reactant | triphenylphosphine | 1.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.74 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thiobenzoic S-acid | 0.55 ml | C(C1=CC=CC=C1)(=O)S | C7H6OS
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-4-benzoylthio-2-(1-methyl-1H-tetrazol- 5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.61 g | C(C1=CC=CC=C1)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSC1=NN=NN1C | C22H22N6O5S2
